US08304419B2
To a solution of 4-chloro-N-({4-chloro-3-[(3-cyano-4-fluorophenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (45 mg, 0.081 mmol) in DCM (4 ml) was added TFA (2.0 mL) and the reaction mixture was stirred at RT for 2 hours. The solvent was removed and the crude material was purified via reverse phase HPLC to give 4-chloro-N-({4-chloro-3-[(3-cyano-4-fluorophenyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide (19 mg, 0.045 mmol, 55% yield). 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.74 (s, 1H) 7.29-7.40 (m, 3H) 7.13-7.29 (m, 2H) 4.61 (s, 2H). LC-MS (ES+) m/z 423.12, [M+H].

reactant | 4-chloro-N-({4-chloro-3-[(3-cyano-4-fluorophenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.081 mmol, 45 mg | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=C(C=C1)F)C#N)F)COCC[Si](C)(C)C | C24H24Cl2F2N4O3Si
reactant | TFA | 2.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-N-({4-chloro-3-[(3-cyano-4-fluorophenyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide | 0.045 mmol, 19 mg, 55% yield | ClC=1N=CNC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=C(C=C1)F)C#N)F | C18H10Cl2F2N4O2
